US04337081
5-Acetamido-3-Trifluoromethyl-1,2,4-Thiadiazole
A solution of 4.3 grams (0.05 mole) 5-amino-3-trifluoromethyl-1,2,4-thiadiazole and 7.0 grams (0.09 mole) acetyl chloride in 50 milliliters xylene was refluxed at about 140° C. for 20 hours. Upon cooling to room temperature 2.9 grams (55% yield) pure product precipitated; m.p. 178.1° C.

reactant | 5-amino-3-trifluoromethyl-1,2,4-thiadiazole | 0.05 mole, 4.3 grams | NC1=NC(=NS1)C(F)(F)F | C3H2F3N3S
reactant | acetyl chloride | 0.09 mole, 7.0 grams | C(C)(=O)Cl | C2H3ClO
solvent | xylene | 50 milliliters | C=1(C(=CC=CC1)C)C | C8H10
product | 5-Acetamido-3-Trifluoromethyl-1,2,4-Thiadiazole | 2.9 grams, 55% yield | C(C)(=O)NC1=NC(=NS1)C(F)(F)F | C5H4F3N3OS
